US06107329
(S)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-pyridin-3-yl-propan-1-one dihydrochloride
(S)-[2-(4-Hydroxy-piperidin-1-yl)-2-oxo-1-pyridin-3-ylmethyl-ethyl]-carbamic acid-tert-butyl ester (367 mg, 1.05 mmol) was dissolved in 4M HCl-dioxane at 0° C. The resulting suspension was stirred for 1.5 hours at 25° C., concentrated and the residue triturated with ether. Yield, 450 mg, 100%.

reactant | (S)-[2-(4-Hydroxy-piperidin-1-yl)-2-oxo-1-pyridin-3-ylmethyl-ethyl]-carbamic acid-tert-butyl ester | 1.05 mmol, 367 mg | C(C)(C)(C)OC(N[C@H](C(=O)N1CCC(CC1)O)CC=1C=NC=CC1)=O | C18H27N3O4
reactant | HCl dioxane | 4M | Cl.O1CCOCC1
product | (S)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-pyridin-3-yl-propan-1-one dihydrochloride | Cl.Cl.N[C@H](C(=O)N1CCC(CC1)O)CC=1C=NC=CC1 | InChI=1S/C13H19N3O2.2ClH/c14-12(8-10-2-1-5-15-9-10)13(18)16-6-3-11(17)4-7-16;;/h1-2,5,9,11-12,17H,3-4,6-8,14H2;2*1H/t12-;;/m0../s1
